Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Bactrim / Azithromycin / Codeine
 
Attending: ___
 
Chief Complaint:
Diplopia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year-old right-handed woman with a PMH
significant for 2 prior strokes (one in ___ involving corona
radiata on the right and another in ___ involving left lateral
thalamus) and DMI who developed gait unsteadiness and diplopia 
on ___ and presented to the ___ ED. 
She says that she was walking/exercising between 3 and 3:30 ___ 
on ___,
without any gait difficulties or imbalance. She did not get up 
to
walk again until 6:30 ___, whe she got up and noticed that her
balance was off. She says she then went down the stairs and felt
"strange," but couldn't exactly describe the sensation. She
believed she was having increased difficulty with turning. She
was able to eat dinner without difficulty and had no problems
with swallowing (above baseline) or bringing the food to her
mouth. She was then able to do a crossword puzzle after dinner.
She then went to bed, and at around 9:15 ___, she noticed that 
she was
seeing double. The objects appeared one on ___ of the other and
the image on top was noted to be smaller. She also says that
things were moving in a clockwise direction. When she closed one
eye, the diplopia resolved (it didn't matter which eye), but
the clockwise spinning sensation remained. She does not have any
sensation that she is spinning with regards to the world. She
said it felt like she was unable to fix her gaze on an
object. The diplopia and apparent clockwise motions remained 
when she presented. She also developed nausea and vomited around 
9:30 ___. She has never
had similar symptoms in the past. 
  Her last brain imagining was in ___, which showed no evidence
of acute infarct and normal circle of ___ MRA. Of note, she
says that she had tried Aggrenox in the past for her small 
vessel
disease, but stopped it because of constant bowel movements; it
was switched to cilostazol.   
  

Neuro ROS: Positive for balance difficulties vertical diplopia
and sensation of objects moving in clockwise direction. No
headache, loss of vision, dysarthria, dysphagia (though since 
her
first stroke, she says she has had issues with choking; this is
improving), tinnitus or hearing difficulty. No difficulties
producing or comprehending speech.  No focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention. 
 
General ROS: Positive for nausea and vomiting. No fever or
chills.  No night sweats or recent weight loss or gain. No 
cough,
shortness of breath, chest pain or tightness, palpitations,
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.

 
Past Medical History:
-stroke in the corona radiata extending into the anterior limb 
of the internal capsule on the right on ___. At that time, 
pt presented with dysarthria, hiccups, dysphagia, left facial 
droop and typing errors with the left hand. She does not think 
that she had any numbness or weakness at that time. 
-insulin dependent diabetes mellitus diagnosed ___, 
complications include diabetic retinopathy
-HTN
-Hyperlipidaemia
-depression
-iron deficiency anemia
-osteopenia

 
Social History:
___
Family History:
Father and paternal aunt DM.
No known history of neurologic disease.

 
Physical Exam:
On admission
T: 96.6 P: 70 R: 16  BP: 149/66 SaO2: 100% RA  
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple 
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities: warm, well perfused 

Neurologic: 
___ Stroke Scale score was: 0   
1a. Level of Consciousness: 0  
1b. LOC Question: 0  
1c. LOC Commands: 0  
2. Best gaze: 0  
3. Visual fields: 0  
4. Facial palsy: 0  
5a. Motor arm, left: 0  
5b. Motor arm, right: 0  
6a. Motor leg, left: 0  
6b. Motor leg, right: 0  
7. Limb Ataxia: 0  
8. Sensory: 0  
9. Language: 0  
10. Dysarthria: 0  
11. Extinction and Neglect: 0  

Mental Status: Awake, alert, oriented to person, place and date. 

Able to relate history without difficulty.  Attentive, able to
name ___ backward without difficulty. Able to follow both 
midline
and appendicular commands. Able to register 3 objects and recall
___ at 5 minutes. No evidence of apraxia or neglect.   

Language: speech is clear, fluent, nondysarthric with intact
naming, repetition and comprehension. Normal prosody. There were
no paraphasic errors. Able to read without difficulty.  

Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk.  VFF to confrontation. 
III, IV, VI: Eyes in midline in primary gaze, however, right eye 
cannot adduct and left eye shows a horizontal nystagmus with 
vertical component on left lateral gaze. Otherwise, the 
nystagmus of the left eye seems to be primarily a vertical 
nystagmus (upbeating with a torsional component). In addition, 
she has a skew deviation with left eye slightly lower and out 
compared to the right eye. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.
 
Motor: Normal bulk. Has mildly increased tone in LUE and
increased tone in L>R ___. No pronator drift bilaterally. No
adventitious movements, such as tremor, noted. No asterixis
noted. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc 
L  5    ___   ___  5   5    5  5     5    
R  5    ___   ___  5   5    5  5     5      
 
Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

DTRs: 
  Bi Tri ___ Pat Ach 
L  2  2    2    2   1 
R  2  2    2    2   1 
Plantar response was extensor bilaterally. 
 
Coordination: No intention tremor or dysmetria on F-N, FNF or 
HKS
bilaterally. 
 
Gait: normal stance; Romberg is negative. Gait is difficult due 
to her double vision, it is possible with closing her left eye.

ON DISCHARGE
Cranial Nerves - on primary gaze there is ABduction of the right 
eye, but no ADduction. The left eye is down and abducted and 
there is a persistent torsional nystagumus of the left eye with 
a vertical nystagmus as well. On left lateral gaze she has full 
abduction of the left, but the right eye does not adduct past 
midline. On right lateral gaze she can completely abduct the 
right eye and adduct the left eye. When individual eyes are 
closed the left eye has full EOM. The right eye has no ability 
to adduct. Her diplopia is most significant on left lateral gaze 
and resolves on right lateral gaze.

Gait: with her eye patched she has some difficulty ambulating 
but is able to walk without the aid of an assistive device.
 
Pertinent Results:
MRI: ___
1. Foci of increased DWI signal within the brainstem are too 
small to 
definitively characterize but may represent very small lacunar 
infarcts. 
2. No other acute findings. 

MRI ___ w/ fine cuts through the brainstem: several small 
midline pontine and lower midbrain infarcts (acute)

TTE: ___
No intracardiac source of embolism identified. Normal global and 
regional biventricular systolic function. Mild to moderate 
mitral regurgitation. Borderline pulmonary hypertension.  

HgA1c: 6.7
LDL ___iplopia
Ms. ___ was admitted to the stroke service after having sudden 
onset of double vision and difficulty walking. On examination 
she was found to have significant eye movement abnormalities as 
detailed below: on primary gaze there is an Abduction of the 
right, but right eye cannot adduct and left eye shows a 
horizontal nystagmus with vertical component on left lateral 
gaze. Otherwise, the nystagmus of the left eye seems to be 
primarily a vertical nystagmus (upbeating with a torsional 
component). In addition, she has a skew deviation with left eye 
slightly lower and out compared to the right eye. When 
individual eyes are closed the left eye has full EOM. The right 
eye has no ability to adduct. Her diplopia is most significant 
on left lateral gaze and resolves on right lateral gaze.

The likely etiology for this was an acute small vessel 
infarction of the brainstem localizing most likely close to the 
right ___ nuclei affecting the part of the ___ nucleus on the 
right that governs the right adductor and hitting fibers from 
the superior rectus of the left eye causing the skew deviation 
and the vertical nystagmus as gaze paretic nystagmus. An MRI was 
performed which showed some DWI abnormalities in the midportion 
of the upper pons and power midbrain which were very small.

She was on cilostazol and aspirin when she was admitted. We 
changed her medications to aspirin 81 and added plavix 75 daily. 
We told her to patch her eye and switch the patch intermittently 
to help with the diplopia. She will follow up in clinic with Dr. 
___.

___ clinic was asked to check on her insulin pump during this 
admission. They felt no changes were necessary.

 
Medications on Admission:
-insulin Pump (Novolog): Basal rate 0.3 units/hr from 12AM to 
6AM
and 0.5 units/hr remainder of day
-aspirin 81 mg po daily 
-cilostazol 50 mg po bid  
-simvastatin 10 mg po daily
-benicar 20 mg po daily  
-fluoxetine 60 mg po daily
-bupropion SR 100 mg PO qAM
-eye injections monthly with Avastin and other medication she
could not rememer name of   

 
___:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. olmesartan 20 mg Tablet Sig: One (1) Tablet PO daily ().  
4. fluoxetine 20 mg Capsule Sig: Three (3) Capsule PO DAILY 
(Daily).  
5. bupropion HCl 100 mg Tablet Extended Release Sig: One (1) 
Tablet Extended Release PO QAM (once a day (in the morning)).  
6. Plavix 75 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
7. Outpatient Physical Therapy
Had brainstem stroke with some incoordination from diplopia.
8. Medication
Insulin pump - specified by ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Brainstem ischemic stroke
Diplopia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the neurology service after you had sudden 
onset of difficulty walking and diplopia (double vision). On 
examination you had limitations in your eye movements on both 
the left eye and right eye. There wer ___ MRIs done which showed 
evidence of a an acute stroke in your brainstem. The likely 
cause was vascular disease secondary to diabtes. We had the 
people from ___ see you in-house and they felt there were no 
adjustments necessary at this time for your insulin pump. We 
adjusted your medications and you will now be taking aspirin and 
plavix.
1. Stop cilostazol
2. Start Aspirin 81 mg daily and Plavix 75 mg daily
3. Follow-up with Dr. ___
4. Patch alternate eyes every 4 hours for relief of double 
vision 
 
Followup Instructions:
___